US04281125
4-Acetyl-5,6-bis(p-chlorophenyl)-2H-pyridazin-3-one (3.1 g), ethylene carbonate (2.0 g), and potassium hydroxide (powdered) were dissolved in dimethylformamide (50 ml) and the flask placed in an oil bath (110°-120° C.) until CO2 evolution ceased (ca. 3.5 hours). The reaction mixture was poured into water (400 ml) and chilled at 5° C. for 1 hour. The resulting precipitate was separated by filtration and recrystallized from methanol (85 ml) to afford 4-acetyl-5,6-bis(p-chlorophenyl)-2-(2'-hydroxyethyl)-2H-pyridazin-3-one (68 percent yield) as pale yellow crystals, m.p. 191°-193° C.

reactant | 4-Acetyl-5,6-bis(p-chlorophenyl)-2H-pyridazin-3-one | 3.1 g | C(C)(=O)C=1C(NN=C(C1C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)=O | C18H12Cl2N2O2
reactant | ethylene carbonate | 2.0 g | C1(OCCO1)=O | C3H4O3
reactant | potassium hydroxide | [OH-].[K+]
reactant | CO2 | C(=O)=O | CO2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 400 ml | O | H2O
product | 4-acetyl-5,6-bis(p-chlorophenyl)-2-(2'-hydroxyethyl)-2H-pyridazin-3-one | 68 percent yield | C(C)(=O)C=1C(N(N=C(C1C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)CCO)=O | C20H16Cl2N2O3
